US07544835B2
2-Isopropoxy-3-{3-[2-({[4-(trifluoromethyl)anilino]-carbonyl}oxy)ethyl]phenyl}propanoic acid
Using ethyl 3-[3-(2-hydroxyethyl)phenyl]-2-isopropoxypropanoate and α,α,α-trifluoro-p-tolylisocyanate, the title compound was obtained in the same manner as described in Example 148.

reactant | ethyl 3-[3-(2-hydroxyethyl)phenyl]-2-isopropoxypropanoate | OCCC=1C=C(C=CC1)CC(C(=O)OCC)OC(C)C | C16H24O4
reactant | α,α,α-trifluoro-p-tolylisocyanate | FC(C1=CC=C(C=C1)N=C=O)(F)F | C8H4F3NO
product | 2-Isopropoxy-3-{3-[2-({[4-(trifluoromethyl)anilino]-carbonyl}oxy)ethyl]phenyl}propanoic acid | C(C)(C)OC(C(=O)O)CC1=CC(=CC=C1)CCOC(=O)NC1=CC=C(C=C1)C(F)(F)F | C22H24F3NO5
